US06867207B2
A mixture of (±)-α-(2-chloro-4-nitrophenyl)-α-(4-chlorophenyl)-1-methyl-1H-imidazole-2-methanol (0.0397 mol) and SnCl2 (0.2382 mol) in HOAc (150 ml) and HCl (150 ml) was stirred and refluxed for 2 hours, then cooled, poured out on ice, basified with NH4OH, filtered over celite and extracted with CH2Cl2 and CH3OH. The organic layer was separated, dried, filtered and the solvent was evaporated, yielding 12 g (91%) of (±)-3-chloro-4-[(4-chlorophenyl)(1-methyl-1H-imidazol-2-yl)methyl]benzenamine (interm. 24).

reactant | (±)-α-(2-chloro-4-nitrophenyl)-α-(4-chlorophenyl)-1-methyl-1H-imidazole-2-methanol | 0.0397 mol | ClC1=C(C=CC(=C1)[N+](=O)[O-])C(O)(C=1N(C=CN1)C)C1=CC=C(C=C1)Cl | C17H13Cl2N3O3
reactant | SnCl2 | 0.2382 mol | Cl[Sn]Cl
reactant | NH4OH | [NH4+].[OH-]
solvent | HOAc | 150 ml | CC(=O)O | C2H4O2
solvent | HCl | 150 ml | Cl | ClH
product | (±)-3-chloro-4-[(4-chlorophenyl)(1-methyl-1H-imidazol-2-yl)methyl]benzenamine | 12 g, 91% | ClC=1C=C(C=CC1C(C=1N(C=CN1)C)C1=CC=C(C=C1)Cl)N | C17H15Cl2N3
